US05026856
7-(4-methoxycarbonyl-2-isoindolinyl)-1-cyclopropyl-5-amino- 6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
298 mg of 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid, 257 mg of 4-methoxycarbonylisoindoline hydrochloride, 532 mg of DBU, and 2ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 181 mg of the target compound.

reactant | 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 298 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C13H9F3N2O3
reactant | 4-methoxycarbonylisoindoline hydrochloride | 257 mg | Cl.COC(=O)C1=C2CNCC2=CC=C1
reactant | DBU | 532 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 2ml | CN(C)C=O | C3H7NO
product | 7-(4-methoxycarbonyl-2-isoindolinyl)-1-cyclopropyl-5-amino- 6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 181 mg | COC(=O)C1=C2CN(CC2=CC=C1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N)F | C23H19F2N3O5
